data/mechanism_extracts/Angew/10.1002_anie.202304434_sup_1.json
{"doi": "10.1002_anie.202304434_sup_1", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical [3+2] cycloaddition of styrenes with nitromethane to form 4,5-dihydroisoxazole N-oxides (oximes) via in situ generation of a 1,2,5-oxadiazole 2-oxide intermediate", "mechanism_family": ["radical_anodic", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of iodide (n-Bu4NI) to I2/I., which mediates HAT from deprotonated nitromethane (CH2=NO2-, intermediate II) to generate fulminate-like HC≡N+-O- (intermediate III); cathode regenerates iodide and produces H2", "key_intermediates": [{"name": "nitromethane anion / aci-nitromethane (CH2=NO2-, Intermediate II)", "smiles": "[CH2-][N+](=O)[O-]", "role": "reactive"}, {"name": "fulminate-type nitrile oxide HC≡N+-O- (Intermediate III)", "smiles": "[C-]#[N+][O-]", "role": "reactive"}, {"name": "1,2,5-oxadiazole 2-oxide (Intermediate IV, furoxan)", "smiles": "C1=NO[N+](=C1)[O-]", "role": "reactive"}, {"name": "iodine radical / I2 (anodic mediator)", "smiles": "[I][I]", "role": "transient"}, {"name": "styrene-furoxan [3+2] adduct V (concerted TS)", "smiles": null, "role": "transient"}, {"name": "4,5-dihydroisoxazole oxime product 2a (VI)", "smiles": "O/N=C1/CC(c2ccccc2)ON1", "role": "reactive"}], "electron_flow": "Anode oxidizes iodide to I./I2, which abstracts H from the t-BuOK-deprotonated nitromethane (II) via HAT to give the nitrile-oxide-like intermediate III; two molecules of III undergo self [3+2] cycloaddition to furoxan IV, which then performs a [3+2] cycloaddition with styrene to afford the dihydroisoxazole N-oxide product. Cathode reduces protons to H2 and regenerates I-.", "rate_determining_step": "HAT from intermediate II (aci-nitromethane) by iodine radical to form nitrile oxide III (inverse KIE ~0.74 observed, consistent with sp3→sp rehybridization at the HAT step)", "probe_reagents": [{"name": "styrene-d8", "smiles": "[2H]C(=C([2H])[2H])c1c([2H])c([2H])c([2H])c([2H])c1[2H]", "purpose": "isotope_label", "observation": "2a-d8 isolated in 87-91% yield; deuterium fully retained in product, confirming styrene is incorporated intact via [3+2]"}, {"name": "CD3NO2 / CH3NO2 competition", "smiles": "[2H]C([2H])([2H])[N+](=O)[O-]", "purpose": "KIE", "observation": "kH/kD = 0.74 (avg of 4 runs: 0.72, 0.75, 0.72, 0.75), inverse secondary KIE consistent with C-H/D cleavage at nitromethane and sp3→sp rehybridization"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C(c1ccccc1)c1ccccc1)", "purpose": "radical_trap", "observation": "Dihydroisoxazole product 4e isolated in 60%; a 1,1-diphenyl-2-CF3 alkene byproduct detected by HRMS, indicating .CF3 radical (from CF3CO2-) is generated and trapped"}, {"name": "litmus paper / limewater headspace test", "smiles": null, "purpose": "other", "observation": "Litmus turns red and limewater becomes turbid over time, indicating CO2 evolution (from Kolbe-type decarboxylation of CF3CO2-) and acidic gas release"}, {"name": "HRMS detection of furoxan IV", "smiles": "C1=NO[N+](=C1)[O-]", "purpose": "intermediate_trap", "observation": "ESI-HRMS m/z (M+Na)+ calcd 109.0008, obsd 109.0009, confirming 1,2,5-oxadiazole 2-oxide IV is present in the reaction mixture; trapping with styrene after electrolysis gave 2a in 25-30% yield"}], "evidence_types_used": ["KIE", "H/D_labeling", "intermediate_trap_other", "stoichiometric_intermediate", "DFT", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "DFT compared three HAT pathways from II to III: by I. (ΔH‡ = 51.3 kJ/mol, most favorable), by I2 (94.8 kJ/mol), and by .CF3 (79.1 kJ/mol), supporting iodine-radical-mediated HAT as the operative pathway. Self [3+2] of two III to furoxan IV has ΔH‡ ≈ 112 kJ/mol; subsequent [3+2] of IV with styrene has ΔH‡ ≈ 109 kJ/mol. Alternative direct nitrile-oxide + alkene [3+2] without furoxan intermediate is disfavored relative to the observed pathway through IV. CF3CO2Na acts as electrolyte and undergoes some Kolbe decarboxylation (CO2 + .CF3 observed) but .CF3 is not the dominant HAT agent."}
